US08283353B2
4′-{[2-(methoxymethyl)-4-(1-methylpropyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
A mixture of ethyl 2-[(2′-cyanobiphenyl-4-yl)methyl]-3-oxohexanoate (0.75 g) and 5-(methoxymethyl)-N-(1-methylpropyl)-4H-1,2,4-triazol-3-amine (0.2 g) was stirred at 250° C. for 15 min under microwave irradiation. The obtained reaction mixture was purified by silica gel column chromatography to give the title compound as a colorless solid (0.2 g, 41%).

reactant | ethyl 2-[(2′-cyanobiphenyl-4-yl)methyl]-3-oxohexanoate | 0.75 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC(C(=O)OCC)C(CCC)=O | C22H23NO3
reactant | 5-(methoxymethyl)-N-(1-methylpropyl)-4H-1,2,4-triazol-3-amine | 0.2 g | COCC=1NC(=NN1)NC(CC)C | C8H16N4O
product | 4′-{[2-(methoxymethyl)-4-(1-methylpropyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.2 g, 41% | COCC1=NN2C(N(C(C(=C2CCC)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N)=O)C(CC)C)=N1 | C28H31N5O2
